US05556863
Preparation of 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-(2-methylthioethoxy)quinoline
A mixture of 3-butyryl-4-chloro-8-(2-methylthioethoxy)quinoline (2.48 g, 6.63 mmol) and 4-hydroxy-2-methylaniline (1.06 g, 8.62 mmol) in acetonitrile (20 ml) was refluxed for 8 h. The reaction mixture was evaporated and the residue was chromatographed (SiO2 ; CH2Cl2 : MeOH 95:5) yielding 1.22 g (45%) of the desired product.

reactant | 3-butyryl-4-chloro-8-(2-methylthioethoxy)quinoline | 6.63 mmol, 2.48 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OCCSC | C16H18ClNO2S
reactant | 4-hydroxy-2-methylaniline | 8.62 mmol, 1.06 g | OC1=CC(=C(N)C=C1)C | C7H9NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-(2-methylthioethoxy)quinoline | 1.22 g, 45% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)OCCSC | C23H26N2O3S
